US06048885
Synthesis of 2-(2,5-dimethylphenoxymethyl)-α-methoxyiminophenylacetaldehyde
1M diisobutylaluminum hydride/toluene solution (5.5 ml, 5.5 mmol) was added dropwise to a mixture of methyl 2-(2,5-dimethylphenoxymethyl)-α-methoxyiminophenylacetate (1.64 g, 5 mmol) and dichloromethane (15 ml) at -70° C. over 0.5 hours, and then the mixture was stirred at -70° C. to room temperature for 3 hours. Methanol (3 ml) was added to the reaction mixture, and the mixture was stirred at room temperature for 1 hour. The precipitated insoluble materials were removed, and the mixture was concentrated under reduced pressure. The residue was purified by silica gel chromatography (ethyl acetate/n-hexane) to 2-(2,5-dimethylphenoxymethyl)-α-methoxyiminophenylacetaldehyde (0.54 g, 36.3%) as a colorless oil.

reactant | diisobutylaluminum hydride toluene | 5.5 mmol, 1M, 5.5 ml | [H-].C(C(C)C)[Al+]CC(C)C.C1(=CC=CC=C1)C
reactant | methyl 2-(2,5-dimethylphenoxymethyl)-α-methoxyiminophenylacetate | 5 mmol, 1.64 g | CC1=C(OCC2=C(C=CC=C2)C(C(=O)OC)=NOC)C=C(C=C1)C | C19H21NO4
reactant | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | Methanol | 3 ml | CO | CH4O
product | 2-(2,5-dimethylphenoxymethyl)-α-methoxyiminophenylacetaldehyde | CC1=C(OCC2=C(C=CC=C2)C(C=O)=NOC)C=C(C=C1)C | C18H19NO3
